US03934008
16. BOC-Met-Leu-Gly-OH
9.98 g of BOC-Met-Leu-Gly-OEt are dissolved in 300 ml of methanol. 57 ml of 0.59 N sodium hydroxide solution are added over the course of 45 minutes at room temperature and the mixture is stirred for a further hour. Thereafter the pH-value is adjusted to 7 with 0.68 N hydrochloric acid and the solution is evaporated to dryness. The residue is dissolved in ethyl acetate and water and the pH-value is brought to 2 by means of 0.68 N hydrochloric acid. The aqueous phase is extracted by shaking with ethyl acetate. The combined ethyl acetate phases are washed with sodium chloride solution, dried and evaporated. The residue is crystallised from ethyl acetate-hexane.

reactant | BOC-Met-Leu-Gly-OEt | 9.98 g | N([C@@H](CCSC)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C20H37N3O6S
reactant | sodium hydroxide | 0.59 N, 57 ml | [OH-].[Na+]
reactant | hydrochloric acid | 0.68 N | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
product | BOC-Met-Leu-Gly-OH | N([C@@H](CCSC)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C18H33N3O6S
